US06194406B1
Combine 1-ethoxycarbonyl-4-(1H-benzimidazol-2-yl)[1,4]diazepane (5.22 g, 18.1 mmol) and aqueous 48% hydrobromic acid solution (25 mL). Heat to reflux. After 4 hours, cool to ambient temperature and concentrate in vacuo to give a residue. Combine the residue and ethanol (150 mL). Evaporate in vacuo to a volume of about 75 mL and cool to give a solid. Collect solid by filtration, rinse with ethanol and then diethyl ether, and dry in vacuo to give 4-(1H-benzimidazol-2-yl)[1,4]diazepane hydrobromic acid salt. Elemental Analysis calculated for C12H16N4.2HBr: C, 38.12; H, 4.80; N, 14.82. Found: C, 38.17; H, 4.84; N, 14.60.

reactant | 1-ethoxycarbonyl-4-(1H-benzimidazol-2-yl)[1,4]diazepane | 18.1 mmol, 5.22 g | C(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1)C=CC=C2 | C15H20N4O2
reactant | hydrobromic acid | 25 mL | Br | BrH
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 4-(1H-benzimidazol-2-yl)[1,4]diazepane hydrobromic acid salt | Br.N1C(=NC2=C1C=CC=C2)N2CCNCCC2 | InChI=1S/C12H16N4.BrH/c1-2-5-11-10(4-1)14-12(15-11)16-8-3-6-13-7-9-16;/h1-2,4-5,13H,3,6-9H2,(H,14,15);1H
